US04173634
A. 2-(p-Chlorobenzylidene)-1-indanone
A mixture of 100 g of indanone, 112 g of p-chlorobenzaldehyde and 500 ml of ethanol is stirred, the resulting solution is cooled to -10° and treated rapidly (3 minutes) with a solution of 5.0 g of KOH in 100 ml of ethanol. The solution is allowed to warm and the product begins to crystallize at 17° (cooled to keep under 15°). The resulting slurry is allowed to stir at 20°-25° for 1 hour, and then poured onto 2 liters of icewater. After standing for 3 hours, the solid is filtered, washed with cold water and allowed to air dry; wt., 190 g, m.p. 174°-179°. After crystallization from 400 ml of DMF, the cream-colored solid weighs 164.5 g (86%), m.p. 177°-179°.

reactant | indanone | 100 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | p-chlorobenzaldehyde | 112 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | KOH | 5.0 g | [OH-].[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-(p-Chlorobenzylidene)-1-indanone | ClC1=CC=C(C=C2C(C3=CC=CC=C3C2)=O)C=C1 | C16H11ClO
